US05032313
Using 4-[2-(trans-4-propylcyclohexyl)ethyl]cyclohexanone and 1-bromo-3,4,5-trifluorobenzene as starting raw materials, 1-(trans-4-propylcyclohexyl)-2-[trans-4-(3,4,5-trifluorophenyl)cyclohexyl]ethane was obtained in the same manner as in Example 1.

reactant | 4-[2-(trans-4-propylcyclohexyl)ethyl]cyclohexanone | C(CC)[C@@H]1CC[C@H](CC1)CCC1CCC(CC1)=O | C17H30O
reactant | 1-bromo-3,4,5-trifluorobenzene | BrC1=CC(=C(C(=C1)F)F)F | C6H2BrF3
product | 1-(trans-4-propylcyclohexyl)-2-[trans-4-(3,4,5-trifluorophenyl)cyclohexyl]ethane | C(CC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C1=CC(=C(C(=C1)F)F)F | C23H33F3
